US05502187
2,6-Diisopropylphenyl acetate
A suspension of 2,6-diisopropylphenol (5.32 g) in 35 ml of trifluoroacetic anhydride is treated with 1.75 ml of glacial acetic acid under a nitrogen atmosphere. Upon completion of the addition of acetic acid, the solids are in mixture. Solvent evaporation gives an oil which is taken up in 150 ml of ethyl acetate and washed twice with saturated aqueous sodium bicarbonate and once with saline. Drying of the organic layer with sodium sulfate followed by filtration and solvent evaporation gives 6.55 g of an oil which is chromatographed on 330 g of silica gel eluting with chloroform/hexane (9/1). The appropriate fractions are pooled and concentrated to give the title compound, NMR (CDCl3, TMS) 7.2, 2.91, 2.36, 1.20.

reactant | 2,6-diisopropylphenol | 5.32 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)O | C12H18O
reactant | acetic acid | 1.75 ml | C(C)(=O)O | C2H4O2
solvent | trifluoroacetic anhydride | 35 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 2,6-Diisopropylphenyl acetate | 6.55 g | C(C)(=O)OC1=C(C=CC=C1C(C)C)C(C)C | C14H20O2
